US06812238B1
To a mixture of 2-nitrobenzylamine hydrochloride (500 mg, 2.65 mmol) and acetone (0.39 ml, 5.30 mmol) in methanol (13 ml) was added sodium cyanoborohydride (500 mg, 7.95 mmol) at 0° C. The temperature was warm up to room temperature. After stirring for 3 hr, the mixture was concentrated in vacuo and extracted with dichloromethane. The combined organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to give N-isopropyl-2-nitrobenzylamine as yellow oil. This compound was used in next step without further purification.

reactant | 2-nitrobenzylamine hydrochloride | 2.65 mmol, 500 mg | Cl.[N+](=O)([O-])C1=C(CN)C=CC=C1
reactant | acetone | 5.30 mmol, 0.39 ml | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 7.95 mmol, 500 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 13 ml | CO | CH4O
product | N-isopropyl-2-nitrobenzylamine | C(C)(C)NCC1=C(C=CC=C1)[N+](=O)[O-] | C10H14N2O2
